US06258775B1
(b) Methyl 2-[1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)vinyl]phenylcarboxylate
A solution of 6-[1-(2-iodophenyl)vinyl]-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene (17.2 g, 40 mmol), palladium diacetate (1.02 g, 4.5 mmol) and tributylamine (21.9 ml, 92 mmol) in methanol (500 ml) is heated for 3 h at 100° C. under a pressure of carbon monoxide (3 bar). After concentration on an evaporator under vacuum at 40° C., the oil obtained is diluted in ethyl acetate and washed three times with water. The product is purified by flash chromatography on a column of silica.

reactant | 6-[1-(2-iodophenyl)vinyl]-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene | 40 mmol, 17.2 g | IC1=C(C=CC=C1)C(=C)C=1C=C2C(CCC(C2=CC1C)(C)C)(C)C | C23H27I
reactant | tributylamine | 92 mmol, 21.9 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium diacetate | 4.5 mmol, 1.02 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Methyl 2-[1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)vinyl]phenylcarboxylate | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=C)C1=C(C=CC=C1)C(=O)OC | C25H30O2
